US06642389B2
0.334 g (0.75 mmol) [rac]-2-Amino-3-{4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-benzo[b]thiophen-7-yl}-propionic acid ethyl ester (prepared from 4-[2-(7-bromomethyl-benzo[b]thiophen-4-yloxy)-ethyl]-5-methyl-2-phenyl-oxazole [PCT Int. Appl. (2001) WO01/79202] and N-(diphenylmethylene)glycine ethyl ester in analogy to the sequence described in examples 15 a] and 15 b]) and 0.161 g (0.97 mmol) benzoylacetone were dissolved in 25 ml of toluene. Then, 0.21 ml (1.5 mmol) triethylamine and 0.026 g (0.15 mmol) 4-toluene sulfonic acid were added and the reaction mixture was heated at reflux for 2 hours. After removing the solvent under reduced pressure, the residue was diluted in water/sodium hydrogen carbonate solution and the reaction mixture was extracted with dichloromethane. The combined organic phases were dried over MgSO4 and evaporated. Purification of the residue by flash-chromatography (silica gel, eluent: gradient of hexane and ethyl acetate) gave 0.38 g (85%) [rac]-2-[1-methyl-3-oxo-3-phenyl-(Z)-propenylamino]-3-{4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-benzo[b]thiophen-7-yl}-propionic acid ethyl ester as light yellow oil.

reactant | [rac]-2-Amino-3-{4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-benzo[b]thiophen-7-yl}-propionic acid ethyl ester | 0.75 mmol, 0.334 g | C(C)OC(C(CC1=CC=C(C2=C1SC=C2)OCCC=2N=C(OC2C)C2=CC=CC=C2)N)=O | C25H26N2O4S
reactant | 4-[2-(7-bromomethyl-benzo[b]thiophen-4-yloxy)-ethyl]-5-methyl-2-phenyl-oxazole | BrCC1=CC=C(C2=C1SC=C2)OCCC=2N=C(OC2C)C2=CC=CC=C2 | C21H18BrNO2S
reactant | N-(diphenylmethylene)glycine ethyl ester | C(C)OC(CN=C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C17H17NO2
reactant | benzoylacetone | 0.97 mmol, 0.161 g | C(C1=CC=CC=C1)(=O)CC(C)=O | C10H10O2
reactant | triethylamine | 1.5 mmol, 0.21 ml | C(C)N(CC)CC | C6H15N
reactant | 4-toluene sulfonic acid | 0.15 mmol, 0.026 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | [rac]-2-[1-methyl-3-oxo-3-phenyl-(Z)-propenylamino]-3-{4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-benzo[b]thiophen-7-yl}-propionic acid ethyl ester | 0.38 g, 85% | C(C)OC(C(CC1=CC=C(C2=C1SC=C2)OCCC=2N=C(OC2C)C2=CC=CC=C2)N\C(=C/C(C2=CC=CC=C2)=O)\C)=O | C35H34N2O5S
